### ISSUE TITLE
Chapter 8.6 Functional Induction - unnecessary `simp [ack, *]`

### ISSUE THREAD

**Issue by alpaylan** [leanprover/theorem_proving_in_lean4#218]
Related to  https://github.com/leanprover/theorem_proving_in_lean4/issues/215

In the proof of the `ack`:

```lean
def ack : Nat → Nat → Nat
  | 0,   y   => y+1
  | x+1, 0   => ack x 1
  | x+1, y+1 => ack x (ack (x+1) y)

theorem ack_gt_zero : ack n m > 0 := by
  fun_induction ack with
  | case1 y =>
    simp
  | case2 x ih =>
    exact ih
  | case3 x y ih1 ih2 =>
    simp [ack, *]
```

`simp [ack, *]` here can be simplified to `simp [*]` or `exact ih2`.
